{default corner "tt"}
{ifxst /foss/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice}
.lib "/foss/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" {corner}
.include "/foss/pdk/sky130A/libs.ref/sky130_fd_sc_hs/spice/sky130_fd_sc_hs.spice"
{else}
.lib "models/sky130.lib.spice" {corner}
.include cells/a211oi/sky130_fd_sc_hs__a211oi_1.spice
.include cells/a21oi/sky130_fd_sc_hs__a21oi_1.spice
.include cells/and2/sky130_fd_sc_hs__and2_1.spice
.include cells/and3/sky130_fd_sc_hs__and3_1.spice
.include cells/and4/sky130_fd_sc_hs__and4_1.spice
.include cells/dfxtp/sky130_fd_sc_hs__dfxtp_1.spice
.include cells/inv/sky130_fd_sc_hs__inv_1.spice
.include cells/mux2i/sky130_fd_sc_hs__mux2i_1.spice
.include cells/mux2/sky130_fd_sc_hs__mux2_1.spice
.include cells/nand2b/sky130_fd_sc_hs__nand2b_1.spice
.include cells/nor2b/sky130_fd_sc_hs__nor2b_1.spice
.include cells/nor2/sky130_fd_sc_hs__nor2_1.spice
.include cells/nor3b/sky130_fd_sc_hs__nor3b_1.spice
.include cells/nor3/sky130_fd_sc_hs__nor3_1.spice
.include cells/nor4b/sky130_fd_sc_hs__nor4b_1.spice
.include cells/o21a/sky130_fd_sc_hs__o21a_1.spice
.include cells/o21bai/sky130_fd_sc_hs__o21bai_1.spice
.include cells/o21ba/sky130_fd_sc_hs__o21ba_1.spice
.include cells/or2/sky130_fd_sc_hs__or2_1.spice
.include cells/or3b/sky130_fd_sc_hs__or3b_1.spice
.include cells/xor2/sky130_fd_sc_hs__xor2_1.spice
{endif}

.lib lib/analog.lib design

** Ramp Gen Comparison =====================================

* xrmp1 vrefp                         ramp1 vdda vss rst  ramp_generator_fixed c=20p r=12.7Meg
* xrmp2 irefp vss vdd vdd vdd vdd vdd ramp2 vdda vss rst  ramp_generator_idac  c=1p
* xrmp3 irefp vss vss vss vss vss vss ramp3 vdda vss rst  ramp_generator_idac  c=1p

xidac2 vc0 vc1 vc2 vc3 vc4 vc0i vc1i vc2i vc3i vc4i vx1 vx2 vrefp vdd vss idac

c1 vx1 vx1o 1f
c2 vx2 vx2o 1f

vx1 vx1o vss 0
vx2 vx2o vss 0


** Global IO ===============================================

* Power Rail

.param vdd=1.8
.param vss=0
Vddd vddd 0 {vdd}
Vdda vdda 0 {vdd}
Vss  vss  0 {vss}

* Clock and Reset (1MHz clock)

Vrst    rst     0   pulse   {vss}   {vdd}   0u     0.1n  0.1n     2u    260u
Vclk    clk     0   pulse   {vss}   {vdd}   1u     0.1n  0.1n   0.5u      1u
Vclk2   clk2    0   pulse   {vss}   {vdd}   1.25u  0.1n  0.1n  0.25u    0.5u

vc0  vc0   vss  pulse   {vss}   {vdd}   0u     0.1n  0.1n   4u        8u
vc1  vc1   vss  pulse   {vss}   {vdd}   0u     0.1n  0.1n   8u        16u
vc2  vc2   vss  pulse   {vss}   {vdd}   0u     0.1n  0.1n   16u       32u
vc3  vc3   vss  pulse   {vss}   {vdd}   0u     0.1n  0.1n   32u       64u
vc4  vc4   vss  pulse   {vss}   {vdd}   0u     0.1n  0.1n   64u       128u
vc0i vc0i  vss  pulse   {vdd}   {vss}   0u     0.1n  0.1n   4u        8u
vc1i vc1i  vss  pulse   {vdd}   {vss}   0u     0.1n  0.1n   8u        16u
vc2i vc2i  vss  pulse   {vdd}   {vss}   0u     0.1n  0.1n   16u       32u
vc3i vc3i  vss  pulse   {vdd}   {vss}   0u     0.1n  0.1n   32u       64u
vc4i vc4i  vss  pulse   {vdd}   {vss}   0u     0.1n  0.1n   64u       128u

* Reference Voltages

vrfp  gnd   vrefp 1
vrfn  vrefn gnd   1

** Control =================================================

.tran 50n 260u uic
.control 
    run 
    ; plot ramp1 ramp2 ramp3
    plot i(vx1) i(vx2) 
    plot v(vx1) v(vx2)

.endc
.end
